US06096781
2-(4-Methoxyphenyl)-6-Hydroxybenzo[b]thiophene
2-(4-Methoxyphenyl)-6-isopropoxybenzo[b]thiophene (1.0 g, 3.35 mmol) was dissolved in 10 mL of methylene chloride and warmed to 30° C. Boron trichloride (3.685 35 mL, 3.685 mmol 1M in methylene chloride) was slowly added to the stirring reaction solution. The reaction was allowed to proceed for one hour at ambient temperature. The reaction was quenched with the dropwise addition of methanol (0.536 g, 16.75 mmol). The reaction was stirred for two hours and a white precipitate formed. The solid as filtered off, washed three times with 10 mL portions of methylene chloride and dried to yield the title compound as a white solid. EA calculated for C15H12O2S: C, 70.29; H, 4.72; S, 12.51. Found: C, 67.69; H, 4.65; S, 12.02. MS(FD): m/e=256 (M+).

reactant | 2-(4-Methoxyphenyl)-6-isopropoxybenzo[b]thiophene | 3.35 mmol, 1.0 g | COC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC(C)C | C18H18O2S
reactant | Boron trichloride | 3.685 mmol, 1M, 35 mL | B(Cl)(Cl)Cl | BCl3
reactant | methanol | 16.75 mmol, 0.536 g | CO | CH4O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Methoxyphenyl)-6-Hydroxybenzo[b]thiophene | COC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)O | C15H12O2S
